US04075343
Ethyl 5,7,8-Trimethoxyimidazo[1,2-a]quinoline-2-carboxylate
To 50 ml. of N,N-dimethylformamide was added 5.2 g. (0.022 mole) of 2-amino-4,6,7-trimethoxyquinoline, and 3.38 g. (0.0244 mole) potassium carbonate. To the resulting slurry was added dropwise over 15 minutes 4.76 g. (0.0244 mole) ethyl bromopyruvate. The reaction mixture was stirred at room temperature 1.75 hours, during which the mixture became orange and a solid precipitated. Upon pouring onto 400 ml. of cold water a solid material formed which was filtered, dried, then dissolved in the minimum amount of chloroform. The solution was charged onto a column made up of 100 g. of silica gel in chloroform and elution with chloroform started. After 200 ml. of eluate was collected, elution with chloroform/ethanol (98:2 v/v) was started and 200 ml. fractions were collected. Fractions 1 through 4 were combined and evaporated to dryness to afford 3.0 g. of product. Recrystallization from benzene/cyclohexane yielded 2.7 g. of colorless solid, M.P. 195°-197° C.

reactant | 2-amino-4,6,7-trimethoxyquinoline | 0.022 mole | NC1=NC2=CC(=C(C=C2C(=C1)OC)OC)OC | C12H14N2O3
reactant | potassium carbonate | 0.0244 mole | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromopyruvate | 0.0244 mole | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl 5,7,8-Trimethoxyimidazo[1,2-a]quinoline-2-carboxylate | COC1=CC=2N(C3=CC(=C(C=C13)OC)OC)C=C(N2)C(=O)OCC | C17H18N2O5
